Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Headache, flu-like illness
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with hx of anxiety and PTSD, with recent travel history to 
___ (returned 10 days go, no prior travel immunization), 
presents with complaints of headache, fever, dizziness, fatigue, 
nausea,  diffuse myalgias, found to be briefly febrile, with 
mild thrombocytopenia, pancytopenia following IVF, with unclear 
etiology.
   
Symptoms began two nights prior to admission, with new onset of 
a band-like headache, along with subjective fever, fatigue, 
dizziness described as "headrush", nausea (no vomiting). She was 
seen in the ED, found to have a temp of 100.3 with tachypnea to 
24 breaths per minute. A UA was negative, and she was sent home, 
with symptoms attributed to a panic attack. The following day, 
her headache worsened to ___ pain, prompting her to return to 
the hospital. At her second presentation, she denied any neck 
pain, but reported respiratory symptoms that she described as 
"difficult breathing in", and diffuse abdominal pain, and mild 
lower back pain. She reports experiencing similar symptoms in 
the past, but without the headache, usually due to panic 
attacks. She was found to have a fever to 101.4 that normalized 
within 2 hours of presentation. 

She recently traveled to ___, for 20 days, having 
returned 10 days ago. She lived in ___ until ___. She remained 
in the city for her entire stay, with no sick contacts, exposure 
to animals, hospitals, prisons, rural areas, and no reported 
insect bites. She was not aware of travel vaccination/medication 
recommendations and did not seek medical care prior to her 
departure. Upon returning, she has had no sick contacts, 
environmental exposures, or especially concerning/new foods 
(some leftover pasta, new ___ food). Although there was 
recently a meningitis death at ___, where she is a ___ 
student, she had no contact with the patient, or any other sick 
contacts and lives off campus with roommates. She had no flu 
vaccine this year, but did receive a meningitis vaccine ___ years 
ago. She denied any unusual stressors. She is sexually active 
with one partner and uses ___ and condoms. 

In the ED, initial vitals: 101.4, 109, 102/63, 20, 98% on RA 
 - Exam notable for: Mild conjunctival injection, no rash, lungs 
CTA, mild diffuse abd tenderness. 
 - Labs notable for: WBC 5.4->3.0, Hgb 12.7->11.1, Plt 118->96,  
Bicarb 20, Phos 2.1, Alk Phos 34, Lipase 84-> 66, lactate 2.2, 
Creat 1.2 --> 0.6; flu negative, UA notable for trace leuks, 
trace protein, 1 WBC. Negative HCG.
 - Micro: CSF and Blood culture pending
 - LP performed, Tube #4, 1 WBC, 1 RBC; Protein 25, Glucose 60 
 - Imaging notable for: CXR no acute process  
 - Pt given: Tylenol, 2.5 L NS, Ativan, ceftriaxone 2g, Phos,  
Ketorolac 30 mg
 - Vitals prior to transfer: 98.7, 96, 94/53, 18, 97%

The Merit resident called State Epidemiologist at ___, 
and case was deferred as not concerning for MERS.
 
Past Medical History:
PTSD 
Anxiety with panic attackss 

 
Social History:
___
Family History:
Father: T2DM
Mother: ___
 
Physical ___:
ADMISSION PHYSICAL EXAM
========================
Vitals:  Tc 98.1 HR 81 97/57 RR 16 99 RA 
BMI 15.5
General: Thin-appearing, alert, interactive, in no acute 
distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: CTAB no wheezes, rales, rhonchi  
CV: RRR, Nl S1, S2, No MRG  
Abdomen: soft, NT/ND bowel sounds present, no rebound tenderness 
or guarding, no organomegaly  
GU: no foley. No CVA tenderness.
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: 2+ reflexes bilaterally, ___ strength in upper and lower 
extremities. No focal deficits  

DISCHARGE PHYSICAL EXAM
=========================
Vitals:  Tm 98.7 Tc 980 P ___ BP 91-102/51-64 RR ___ Sp02 
100RA   
General: Thin-appearing, alert, interactive, in no acute 
distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: CTAB no wheezes, rales, rhonchi  
CV: RRR, Nl S1, S2, No MRG  
Abdomen: soft, NT/ND bowel sounds present, no rebound tenderness 
or guarding, no organomegaly  
GU: no foley. No CVA tenderness.
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: 2+ reflexes bilaterally, ___ strength in upper and lower 
extremities. No focal deficits  
 
Pertinent Results:
ADMISSION LABS
================
___ 09:10PM BLOOD WBC-5.4 RBC-4.73 Hgb-12.7 Hct-39.3 MCV-83 
MCH-26.8 MCHC-32.3 RDW-15.0 RDWSD-45.5 Plt ___
___ 09:10PM BLOOD Neuts-68.7 Lymphs-18.3* Monos-12.1 
Eos-0.0* Baso-0.7 Im ___ AbsNeut-3.67 AbsLymp-0.98* 
AbsMono-0.65 AbsEos-0.00* AbsBaso-0.04
___ 09:10PM BLOOD Glucose-86 UreaN-10 Creat-1.2* Na-132* 
K-6.0* Cl-101 HCO3-19* AnGap-18
___ 09:10PM BLOOD ALT-21 AST-49* AlkPhos-35 TotBili-0.1
___ 09:10PM BLOOD Lipase-84*
___ 09:10PM BLOOD Albumin-4.4 Calcium-9.2 Phos-1.3* Mg-1.8
___ 09:25PM BLOOD Lactate-2.2* K-4.5

NOTABLE LABS
===============
___ 11:34AM BLOOD WBC-3.0* RBC-4.15 Hgb-11.1* Hct-35.4 
MCV-85 MCH-26.7 MCHC-31.4* RDW-15.3 RDWSD-47.3* Plt Ct-96*
___ 11:34AM BLOOD Glucose-129* UreaN-6 Creat-0.6 Na-139 
K-3.6 Cl-110* HCO3-20* AnGap-13
___ 11:34AM BLOOD ALT-13 AST-20 AlkPhos-34*
___ 11:34AM BLOOD Lipase-66*
___ 11:34AM BLOOD Calcium-7.6* Phos-2.1* Mg-1.7

DISCHARGE LABS
=================
___ 04:22AM BLOOD WBC-4.5 RBC-4.41 Hgb-11.8 Hct-37.0 MCV-84 
MCH-26.8 MCHC-31.9* RDW-15.4 RDWSD-47.2* Plt ___
___ 04:22AM BLOOD Glucose-88 UreaN-12 Creat-0.7 Na-138 
K-3.7 Cl-106 HCO3-20* AnGap-16

MICRO
========
UA (___): Notable for trace protein and trace leuks (WBC = 
1), otherwise normal
Flu (___): Negative

Lumbar Puncture (___): Tube 4 WBC 1, RBC 1, TP 25, Glucose 
60

PENDING LABS
===============
CMV and EBV Serologies Pending at Discharge
MERS Coronavirus Pending at Discharge
CSF Culture pending at DSischarge

IMAGING
==========
CXR (___): IMPRESSION:  No acute intrathoracic process. 

 
Brief Hospital Course:
___ with hx of anxiety and PTSD, with recent travel history to 
her native ___ (returned 10 days go, no prior travel 
immunization/medication), who presented with a headache and 
flu-like illness of unclear etiology, found to be briefly 
febrile, with mild thrombocytopenia.

ACTIVE ISSUES
=============
#Flu-like illness:  Patient presented with flu-like symptoms, 
including severe tension-like headache, and a brief fever to 
101.4. No sick contacts, neck pain, cough vomiting, diarrhea, 
dysuria, phonophobia, photophobia, visual/hearing changes. UA 
and LP was negative (CSF culture pending). HCG negative. Flu PCR 
was negative. CXR was negative. She had a mild thrombocytopenia 
on presentation, with pancytopenia after IVF. Other lab 
abnormalities notable for bicarb of 20, lactate of 2.2. 

Upon arrival to the hospital floor, patient reported full 
resolution of symptoms aside from mild bilateral back pain and 
polyuria since receiving IV fluids. Overnight, she remained 
afebrile, receiving acetaminophen for headache, Ativan for 
anxiety, and calcium, magnesium and phosphate repletion. 
Additional tests for CMV and EBV were ordered for concern of 
atypical Mono.  Acute HIV was considered however given pt's 
history was thought unlikely.  Antibiotics were discontinued. 

In the morning, the patient reported complete resolution of all 
symptoms. Morning labs indicated that leukopenia and anemia had 
resolved, though thrombocytopenia had persisted. She was 
discharged with instructions to follow-up with a PCP or her 
student health clinic for a repeat CBC at 1 week to confirm 
resolution of thrombocytopenia. She was also instructed to be 
sure to follow-up on pending lab results (EBV, CMV serologies, 
blood cultures, CSF cultures, MERS coronavirus). 

#Headache
Presented with severe headache in a band around head. No focal 
neurologic signs, vomiting, positional pain, changes in vision 
or hearing, or pain waking her from sleep. Symptoms resolved 
spontaneously, and appear most consistent with a tension-type 
headache. She has a history of headache that has been unchanged 
recently.  Improved by time of discharge with no specific 
therapy. 

#Thrombocytopenia
Presented with thrombocytopenia to 118, at 108 upon discharge. 
This is likely secondary to acute viral illness, but requires 
follow-up for resolution. 

#Anxiety/PTSD 
Patient experienced anxiety overnight, which resolved with 
ativan. She is followed at ___ by a psychiatric nurse, 
___, for anxiety and PTSD. Several of her symptoms, 
aside from headache have been experienced during prior panic 
attacks. 

TRANSITIONAL ISSUES
===================
#Healthcare: Pt requires PCP for routine health follow-up.
#Thrombocytopenia: Repeat CBC at 1 week to confirm resolution of 
thrombocytopenia. 
#Pending lab results: EBV, CMV serologies, blood cultures, CSF 
cultures, MERS coronavirus. These lab results must be followed 
up when complete.
#Underweight: BMI of 15.5. Patient would prefer to gain weight. 
Nutrition counseling may be beneficial
# CODE STATUS: Full Code (confirmed)
# CONTACT: ___ (boyfriend) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sertraline 200 mg PO DAILY 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN Pain / Fever 
2. Sertraline 200 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
=================
Unspecified viral infection
Underweight
Headache
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Ms. ___,

It was a pleasure caring for you at our hospital.  As you know, 
you were evaluated at the hospital for a flu-like illness. You 
came to the hospital with a fever of 101.4 and a severe headache 
along with other symptoms. We did several tests to assess for a 
source of infection, including analyses of your urine, a chest 
x-ray, a lumbar puncture, and test for influenza virus. We 
treated you with intravenous fluids and electrolytes, but 
ultimately decided that antibiotics were not necessary. Although 
some of your lab results have not been finalized, we have not 
found any source of infection, and believe you are likely 
suffering from a virus, which should resolve within a week or 
so.

We will call you with the results of your remaining tests when 
they are available. 

It is important for you to visit the ___ 
Clinic, or a primary care physician of your choice, in 
approximately one week, to be evaluated for any continuing 
symptoms, and to have a new laboratory blood test to check that 
one of your blood tests (a low platelet count) has resolved. 

We wish you a speedy recovery and all the best,

Your ___ Care Team

 
Followup Instructions:
___